US03932411
5-{3-[4-(4-chlorophenyl)-1-piperzinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
from 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4-(4-chlorophenyl)-piperazine; yield 70.0% of theory; the hydrochloride, after recrystallization from 96% ethanol and drying in a vacuum desiccator, still contained 0.55 mol water; m.p. 189°-191°C;

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4-(4-chlorophenyl)-piperazine | ClCCCN1CCN(CC1)C1=CC=C(C=C1)Cl | C13H18Cl2N2
reactant | water | 0.55 mol | O | H2O
product | 5-{3-[4-(4-chlorophenyl)-1-piperzinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 70.0% | ClC1=CC=C(C=C1)N1CCN(CC1)CCCOC1=C2CCCC(C2=CC=C1)=O | C23H27ClN2O2
